US08357694B2
(S)—N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride salt
This was synthesized by using (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-methylcyclohexanamine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=175-185° C. 1H NMR 400 MHz (DMSO-d6) δ 10.54 (s, 1 H), 9.71 (s, 1 H), 8.33-8.28 (m, 2 H), 7.78-7.76 (m, 2 H), 7.51-7.42 (m, 3 H), 7.25-7.23 (m, 2 H), 7.11-7.10 (d, 1 H), 7.02-7.00 (m, 1 H), 4.46 (t, J=6.8 Hz, 1 H), 3.28-3.21 (m, 4 H), 3.00-2.98 (m, 2 H), 2.71-2.69 (d, 3 H), 2.09-1.96 (m, 2 H), 1.79 (d, J=12 Hz, 2 H), 1.59 (d, J=12.8 Hz, 2 H). 1.44-1.38 (m, 2 H), 1.26-1.06 (m, 4 H). LCMS m/e 557 (M+H).

reactant | (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | N-methylcyclohexanamine | CNC1CCCCC1 | C7H15N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)—N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride salt | Cl.C1(CCCCC1)N(CCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3)C | InChI=1S/C33H34Cl2N4.ClH/c1-39(26-7-3-2-4-8-26)18-17-22-11-14-25(15-12-22)37-33-36-21-24-19-29(23-13-16-30(34)31(35)20-23)27-9-5-6-10-28(27)32(24)38-33;/h5-6,9-16,20-21,26,29H,2-4,7-8,17-19H2,1H3,(H,36,37,38);1H/t29-;/m0./s1
